US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (0.50 g) and (4-isopropylphenyl)[(6-methoxypyridin-3-yl)methyl]amine (0.62 g) as starting materials, N-(4-isopropylphenyl)-N-[(6-methoxypyridin-3-yl)methyl]-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide was obtained. This was dissolved in ether, and 4N-hydrochloric acid/dioxane was added. The precipitated solid was collected by filtration to give N-(4-isopropylphenyl)-N-[(6-methoxypyridin-3-yl)methyl]-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide monohydrochloride (0.47 g).

reactant | 7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 0.50 g | COC1=CC=C2CCCC(C2=C1)C(=O)O | C12H14O3
reactant | (4-isopropylphenyl)[(6-methoxypyridin-3-yl)methyl]amine | 0.62 g | C(C)(C)C1=CC=C(C=C1)NCC=1C=NC(=CC1)OC | C16H20N2O
product | N-(4-isopropylphenyl)-N-[(6-methoxypyridin-3-yl)methyl]-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide | C(C)(C)C1=CC=C(C=C1)N(C(=O)C1CCCC2=CC=C(C=C12)OC)CC=1C=NC(=CC1)OC | C28H32N2O3
